US08461328B2
To a cold solution of [1-(2-hydroxy-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (0.70 g, 2.7 mmol) in DCM (30 mL) was added DAST (1.1 mL, 8.1 mmol) and the mixture was stirred at 25° C. for 20 h. The reaction mixture was washed with saturated sodium bicarbonate solution, water, brine, dried over Na2SO4 and concentrated under reduced pressure to afford [1-(2-fluoro-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (0.5 g, 70%). LCMS (Method G; ESI): RT=0.53 min; m+1=261.3. This was used without further purification below.

reactant | [1-(2-hydroxy-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 2.7 mmol, 0.70 g | C(C)(C)(C)OC(NC1CCN(CC1)CC(C)O)=O | C13H26N2O3
reactant | DAST | 8.1 mmol, 1.1 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | [1-(2-fluoro-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.5 g, 70% | C(C)(C)(C)OC(NC1CCN(CC1)CC(C)F)=O | C13H25FN2O2
